US07939527B2
N-(3-Methoxypropyl)-N-{2-[4-([1,3]thiazolo[4,5-b]pyridin-2-yloxy)phenoxy]ethyl}cyclopropanamine
The title compound was prepared from N-{2-[4-([1,3]thiazolo[4,5-b]pyridin-2-yloxy)phenoxy]ethyl}cyclopropanamine using methods analogous to those described for Example 271, using more sodium hydride (2.5 equiv.) and more of the appropriate amine (2 equiv.). 1H NMR (500 MHz, CDCl3): 8.58 (dd, J=4.8, 1.6, 1H), 8.01 (dd, J=7.9, 1.7, 1H), 7.35-7.30 (m, 2H), 7.21 (dd, J=7.9, 4.8, 1H), 6.98-6.93 (m, 2H), 4.13 (t, J=6.2, 2H), 3.43 (t, J=6.4, 2H), 3.35 (s, 3H), 3.05 (t, J=6.2, 2H), 2.82-2.77 (m, 2H), 1.92-1.80 (m, 3H), 0.55-0.42 (m, 4H). MS (ESI): mass calcd. for C21H25N3O3S, 399.16; m/z found, 400.1 [M+H]+.

reactant | N-{2-[4-([1,3]thiazolo[4,5-b]pyridin-2-yloxy)phenoxy]ethyl}cyclopropanamine | S1C(=NC2=NC=CC=C21)OC2=CC=C(OCCNC1CC1)C=C2 | C17H17N3O2S
reactant | sodium hydride | 2.5 equiv. | [H-].[Na+]
product | N-(3-Methoxypropyl)-N-{2-[4-([1,3]thiazolo[4,5-b]pyridin-2-yloxy)phenoxy]ethyl}cyclopropanamine | COCCCN(C1CC1)CCOC1=CC=C(C=C1)OC=1SC=2C(=NC=CC2)N1 | C21H25N3O3S
